US05716624
Following the basic procedure of Example 11(d), by reacting 3.3 g (13.4 mmol) of α-ethynyl-3-tert-butyl-4-(propyloxy)benzenemethanol with 3.8 g (13.4 mmol) of methyl 2-hydroxy-4-iodobenzoate, 4.4 g (83%) of methyl 4-[3-hydroxy-3-(3-tert-butyl-4-propyloxyphenyl)-1-propynyl]benzoate were obtained in the form of a dark brown oil.

reactant | α-ethynyl-3-tert-butyl-4-(propyloxy)benzenemethanol | 13.4 mmol, 3.3 g | C(#C)C(O)C1=CC(=C(C=C1)OCCC)C(C)(C)C | C16H22O2
reactant | methyl 2-hydroxy-4-iodobenzoate | 13.4 mmol, 3.8 g | OC1=C(C(=O)OC)C=CC(=C1)I | C8H7IO3
product | methyl 4-[3-hydroxy-3-(3-tert-butyl-4-propyloxyphenyl)-1-propynyl]benzoate | 4.4 g, 83% | OC(C#CC1=CC=C(C(=O)OC)C=C1)C1=CC(=C(C=C1)OCCC)C(C)(C)C | C24H28O4
